US04659706
A mixture of 5-bromo-3-methoxytoluene (20 g, 0.1 m), N-bromosuccinimide (17.8 g, 0.1 m) and dibenzoyl peroxide in carbon tetrachloride (200 ml) is heated to reflux and irradiated with a sunlamp. The mixture is cooled, filtered and concentrated in vacuo to give 5-bromo-3-methoxybenzyl bromide.

reactant | 5-bromo-3-methoxytoluene | 20 g | BrC=1C=C(C=C(C1)C)OC | C8H9BrO
reactant | N-bromosuccinimide | 17.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 200 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-bromo-3-methoxybenzyl bromide | BrC=1C=C(C=C(CBr)C1)OC | C8H8Br2O
